US05403816
Preparation of 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6 -methylaminopicolinic acid
195.6 g (0.54 mol) of methyl 6-(N-acetyl-N-methylamino)-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinate was dissolved in 1.5 l of methanol. The solution was added to 335 g of a 20% potassium hydroxide aqueous solution, and the mixture was stirred for one hour at 50° C. The reaction solution was concentrated, and 1 l of ice water was added thereto. The mixture was acidified (to about pH4) with an aqueous citric acid solution and left to cool. Precipitated crystals were collected by filtration and washed with cool water and diisopropyl ether. Then, the crystals were dissolved in 1 l of methanol, and 45.6 g (0.69 mol) of potassium hydroxide and 50 ml of water were added thereto. The mixture was stirred at room temperature for 28 hours. The reaction solution was concentrated, and ice water was added thereto. The mixture was acidified with an aqueous citric acid solution to obtain crude crystals. The crystals were washed with diisopropyl ether and then dried under reduced pressure at 90° C. for 24 hours to obtain 112 g (yield: 68%) of the desired product as a white powder.

reactant | methyl 6-(N-acetyl-N-methylamino)-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinate | 0.54 mol, 195.6 g | C(C)(=O)N(C)C1=CC=C(C(=N1)C(=O)OC)OC1=NC(=CC(=N1)OC)OC | C16H18N4O6
reactant | potassium hydroxide | [OH-].[K+]
reactant | potassium hydroxide | 0.69 mol, 45.6 g | [OH-].[K+]
reactant | water | 50 ml | O | H2O
solvent | methanol | 1.5 l | CO | CH4O
product | 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6 -methylaminopicolinic acid | 112 g, yield: 68% | COC1=NC(=NC(=C1)OC)OC=1C(=NC(=CC1)NC)C(=O)O | C13H14N4O5
